*----------------------------------------------------------------------
* SPICE Model generated by Murata Manufacturing Co., Ltd.
* Copyright(C) Murata Manufacturing Co., Ltd.
* Description :1005M(0402)/X7R(-55to125[deg])/1.00e-01[uF]/25[V]
* Murata P/N :GGM155R71E104KE02
* Property : C = 1.00e-01[uF]
* Data Generated on Jan 30, 2024
*----------------------------------------------------------------------
* Applicable Conditions:
*   Frequency Range = 100[Hz]-6[GHz]
*   Temperature = 25 degC
*   DC Bias Voltage = 0V
*   Small Signal Operation
*----------------------------------------------------------------------
.SUBCKT GGM155R71E104KE02 Port1 Port2
C01 Port1 N01 9.43e-08
R01 Port1 N01 5.00e+08
L02 N01 N02 1.53e-10
R03 N02 N03 1.67e-02
C04 N03 N04 9.89e-06
R04 N03 N04 4.03e+02
C05 N04 N05 1.46e-05
R05 N04 N05 3.67e+01
C06 N05 N06 1.38e-05
R06 N05 N06 6.09e+00
C07 N06 N07 1.61e-05
R07 N06 N07 8.22e-01
C08 N07 N08 1.16e-05
R08 N07 N08 2.79e-01
C09 N08 N09 9.19e-06
R09 N08 N09 4.91e-02
C10 N09 N10 6.72e-06
R10 N09 N10 1.58e-02
L11 N10 N11 1.74e-11
R11 N10 N11 9.26e-02
L12 N11 N12 8.86e-11
R12 N11 N12 6.62e-02
C13 N12 N13 5.03e-07
L13 N12 N13 1.50e-11
R13 N12 N13 1.11e-02
C14 N13 N14 2.18e-07
L14 N13 N14 1.69e-11
R14 N13 N14 1.67e-02
C15 N14 Port2 5.66e-12
L15 N14 Port2 5.79e-11
R15 N14 Port2 1.68e+01
.ENDS GGM155R71E104KE02
